US07378418B2
Preparation of 7,8-Bis(4-chlorophenyl)-2-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of the 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (100 mg, 0.28 mmol), prepared as described in Example 1, in DMF (3 mL) at RT was added K2CO3 (116 mg, 0.84 mmol), followed by iodomethane (79 mg, 0.56 mmol). The reaction was heated at 60° C. for overnight. The reaction was diluted with EtOAc (20 mL), washed with saturated aqueous NaCl (20 mL×3). The organic layer was dried (MgSO4), filtered and concentrated under reduced pressure to give the title compound, 7,8-bis(4-chlorophenyl)-2-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (104 mg, 100%) as a yellow oil. HPLC retention time: 3.67 min; MS [M+H]+: found 371.

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.28 mmol, 100 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | K2CO3 | 0.84 mmol, 116 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 0.56 mmol, 79 mg | IC | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 7,8-bis(4-chlorophenyl)-2-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 104 mg, 100% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)C)=O)C2=CC=C(C=C2)Cl | C18H12Cl2N4O
